US05716954
8-(3-nitrophenyl)-pyrido[2,3-d]pyridazin-5-one (5.12 g, 19.1 moles), sodium hydride (50% in oil, 1 g, 20.1 moles) were mixed in 100 mL of 1-methyl-2-pyrrolidone and the mixture heated to 65° C. In a separatory funnel, 4-picolyl chloride hydrochloride (4.5 g, 27.4 mmoles), 20 mL of saturated potassium carbonate and 75 mL of toluene are mixed. After separation, the toluene solution was added to the reaction mixture dropwise over the period of 1 hour. The reaction mixture was diluted with water (250 mL) and extracted twice with ethyl acetate (200 mL). After concentrating the organic fractions, methanol and hexanes (75 mL each) were added and the mixture allowed to stir at room temperature for 17 hours. The material was filtered and dried to yield 5.2 g of 6-(4-pyridylmethyl)-8-(3-nitro-phenyl)-pyrido[2,3-d]pyridazin-5-one.

reactant | 8-(3-nitrophenyl)-pyrido[2,3-d]pyridazin-5-one | 19.1 moles, 5.12 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=NNC(C2=C1N=CC=C2)=O | C13H8N4O3
reactant | sodium hydride | 20.1 moles, 1 g | [H-].[Na+]
reactant | 4-picolyl chloride hydrochloride | 27.4 mmoles, 4.5 g | Cl.N1=CC=C(C=C1)CCl
reactant | potassium carbonate | 20 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methyl-2-pyrrolidone | 100 mL | CN1C(CCC1)=O | C5H9NO
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(4-pyridylmethyl)-8-(3-nitro-phenyl)-pyrido[2,3-d]pyridazin-5-one | 5.2 g | N1=CC=C(C=C1)CN1N=C(C2=C(C1=O)C=CC=N2)C2=CC(=CC=C2)[N+](=O)[O-] | C19H13N5O3
